US08802864B2
c) 5-bromo-7-fluoro-1-benzofuran
A solution of 5-bromo-7-fluoro-1-benzofuran-2-carboxylic acid (1.274 mmol) in quinoline (2 mL) was treated with copper dust (0.236 mmol). The reaction was purged with nitrogen, sealed and irradiated in a microwave reactor at 230° C. for 60 min. The solution was diluted with ethyl acetate and was filtered through Celite. The filtrate was concentrated in vacuo, and the residue was purified by flash chromatography (hexanes) to provide the title compound as a clear oil (280 mg, 100% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.17 (d, J=2.02 Hz, 1H) 7.77 (d, J=1.77 Hz, 1H) 7.55 (dd, J=10.48, 1.64 Hz, 1H) 7.07 (dd, J=3.16, 2.15 Hz, 1H).

reactant | 5-bromo-7-fluoro-1-benzofuran-2-carboxylic acid | 1.274 mmol | BrC=1C=C(C2=C(C=C(O2)C(=O)O)C1)F | C9H4BrFO3
solvent | quinoline | 2 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 0.236 mmol | [Cu] | Cu
product | 5-bromo-7-fluoro-1-benzofuran | 280 mg, 100% yield | BrC=1C=C(C2=C(C=CO2)C1)F | C8H4BrFO
